### PR TITLE
[Merged by Bors] - feat(RingTheory/SimpleRing/Basic): characterise simple ring in terms of injectiveness

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/SimpleRing/Basic.lean [hunk 1]
```diff
@@ -79,6 +80,41 @@ lemma isField_center (A : Type*) [Ring A] [IsSimpleRing A] : IsField (Subring.ce
       _ = y * (a * (x * y)) := by rw [mul_assoc a x y]
       _ = y * a := by rw [hy, mul_one]
 
+lemma injective_ringHom_or_subsingleton_codomain
+    {R S : Type*} [NonAssocRing R] [IsSimpleRing R] [NonAssocRing S]
+    (f : R →+* S) : Function.Injective f ∨ Subsingleton S :=
+  simple.eq_bot_or_eq_top (TwoSidedIdeal.ker f) |>.recOn
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/SimpleRing/Basic.lean:86]: You can probably golf slightly with `Or.imp` instead of `Or.recOn`

File: Mathlib/RingTheory/SimpleRing/Basic.lean [hunk 2]
```diff
@@ -79,6 +80,41 @@ lemma isField_center (A : Type*) [Ring A] [IsSimpleRing A] : IsField (Subring.ce
...
+    (fun h => Or.inl <| TwoSidedIdeal.ker_eq_bot _ |>.1 h)
+    (fun h => Or.inr <| subsingleton_iff_zero_eq_one.1 <| by
+      have mem : 1 ∈ TwoSidedIdeal.ker f := h.symm ▸ ⟨⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/SimpleRing/Basic.lean:89]: What's the `⟨⟩` for? Should it say `mem_top` instead?

File: Mathlib/RingTheory/SimpleRing/Basic.lean [hunk 3]
```diff
@@ -79,6 +80,41 @@ lemma isField_center (A : Type*) [Ring A] [IsSimpleRing A] : IsField (Subring.ce
...
+lemma injective_ringHom
+    {R S : Type*} [NonAssocRing R] [IsSimpleRing R] [NonAssocRing S] [Nontrivial S]
+    (f : R →+* S) : Function.Injective f :=
+  injective_ringHom_or_subsingleton_codomain f |>.resolve_right fun r => not_subsingleton _ r
+
+universe u in
+lemma iff_injective_ringHom_or_subsingleton_codomain (R : Type u) [NonAssocRing R] [Nontrivial R] :
+    IsSimpleRing R ↔
+    ∀ {S : Type u} [NonAssocRing S] (f : R →+* S), Function.Injective f ∨ Subsingleton S :=
+  ⟨fun h _ _ => injective_ringHom_or_subsingleton_codomain, fun H => of_eq_bot_or_eq_top fun I => by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/SimpleRing/Basic.lean:101]: I suggest
```suggestion
    ∀ {S : Type u} [NonAssocRing S] (f : R →+* S), Function.Injective f ∨ Subsingleton S where
  mp h _ _ := injective_ringHom_or_subsingleton_codomain
  mpr H := of_eq_bot_or_eq_top fun I => by
```

**Comment by Ruben-VandeVelde** [comment]
Import change seems fine for a leaf file

File: Mathlib/RingTheory/SimpleRing/Basic.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:89]: yes, probably. thanks

File: Mathlib/RingTheory/SimpleRing/Basic.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/SimpleRing/Basic.lean]: indeed!

File: Mathlib/RingTheory/TwoSidedIdeal/Operations.lean [hunk 4]
```diff
@@ -108,8 +108,27 @@ def ker : TwoSidedIdeal R :=
...
 end NonUnitalNonAssocRing
 
+section NonAssocRing
+
+variable {R : Type*} [NonAssocRing R]
+
+/--
+The kernel of the ring homomorphism `R → R⧸I` is `I`.
+-/
+lemma ker_ringCon_mk' (I : TwoSidedIdeal R) : ker I.ringCon.mk' = I :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/TwoSidedIdeal/Operations.lean:125]:
```suggestion
@[simp]
lemma ker_ringCon_mk' (I : TwoSidedIdeal R) : ker I.ringCon.mk' = I :=
```

File: Mathlib/RingTheory/SimpleRing/Basic.lean [hunk 5]
```diff
@@ -79,6 +80,37 @@ lemma isField_center (A : Type*) [Ring A] [IsSimpleRing A] : IsField (Subring.ce
...
+    (f : R →+* S) : Function.Injective f ∨ Subsingleton S :=
+  simple.eq_bot_or_eq_top (TwoSidedIdeal.ker f) |>.imp (TwoSidedIdeal.ker_eq_bot _ |>.1)
+    (fun h => subsingleton_iff_zero_eq_one.1 <| by
+      have mem : 1 ∈ TwoSidedIdeal.ker f := h.symm ▸ TwoSidedIdeal.mem_top _
+      rwa [TwoSidedIdeal.mem_ker, map_one, eq_comm] at mem)
+
+lemma injective_ringHom
+    {R S : Type*} [NonAssocRing R] [IsSimpleRing R] [NonAssocRing S] [Nontrivial S]
+    (f : R →+* S) : Function.Injective f :=
+  injective_ringHom_or_subsingleton_codomain f |>.resolve_right fun r => not_subsingleton _ r
```
Comment (jcommelin) [inline Mathlib/RingTheory/SimpleRing/Basic.lean:94]: This could even replace the existing `RingHom.injective`, right?
See https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Field/Basic.html#RingHom.injective

If we put this in a file with minimal imports, I think that would be a good refactor.

Comment (jjaassoonn) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:94]: Indeed, let me try

Comment (jjaassoonn) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:94]: Wait, maybe no. Two-sided-ideal does not work on semiring, we really do need subtraction. So `TwoSidedIdeal.ker f` only makes sense for `f : R -> S` between `NonAssocRing`s. Therefore, `SimpleRing.injective_ringHom` need the target to have subtraction at all. `RingHom.injective` however works on target that is only a `Semiring`.

Comment (jjaassoonn) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:94]: I will write an implementation note to note this

Comment (jcommelin) [reply Mathlib/RingTheory/SimpleRing/Basic.lean:100]: Ok, let's merge this as is now.
But I think we could generalize `TwoSidedIdeal` and `IsSimpleRing` so that they make sense in the context of non-assoc semirings.

**Review by jcommelin — COMMENTED** [review]
bors merge
